US04680391
3-Propyl-4-acetoxy azetidinone, 171 mg, is refluxed with 200 mg p-nitrophenyl thiol in 10 ml benzene for 6 hours. The solution is washed 3x with aqueous Na2CO3, dried with MgSO4, filtered and evaporated. The residue is chromatographed on silica gel, eluting with 10:1 CHCl3 -EtOAc, affording 3-propyl-4-p-nitrophenylthioazetidin-2-one.

reactant | 3-Propyl-4-acetoxy azetidinone | C(CC)C1C(NC1OC(C)=O)=O | C8H13NO3
reactant | p-nitrophenyl thiol | 200 mg | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 3-propyl-4-p-nitrophenylthioazetidin-2-one | C(CC)C1C(NC1SC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H14N2O3S
